Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
erythromycin base
 
Attending: ___.
 
Chief Complaint:
GI bleed
 
Major Surgical or Invasive Procedure:
Colonoscopy 

 
History of Present Illness:
Ms ___ is a lovely ___ with h/o granular cell tumor 
of the colon, tobacco abuse, HTN, depression, who recently had a 
colonoscopic procedure to remove a submucosal lesion, who now 
p/w lower GI bleed. 

She underwent colonoscopy ___ with 7 mm submucosal lesion at 
the hepatic flexure (path: granular cell tumor extending to 
tissue edges S100 stain +). On ___ the GI team did an 
endoscopic mucosal resection of the granular cell tumor.

At 2am this morning, she developed BRBPR x 4 episodes and she 
presented to the ___ ED. Her hematocrit fell from 36 to 30; 
has been HD stable though does report some light headedness. CTA 
suggested extravastion from the prior procedural site. She went 
to the GI suite for colonoscopy; they found clot at the site of 
the previous procedure, with active bleeding. This was clipped 
it x 3 followed by 10cc of epinephrine which led to complete 
cessation of any oozing.

She is now admitted for observation and trending of CBC. She 
feels well, with no abdominal pain, and has no complaints. 

 
Past Medical History:
- GI mucosal lesion s/p resection
- depression
- tobacco abuse
- hypertension
 
Social History:
___
Family History:
early heart disease and heart attacks in her father and several 
family members 
 
Physical Exam:
Admission
VS -  98.1 1544/90 71 18 100%ra 
GENERAL: NAD  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
MMM, good dentition  
NECK: nontender supple neck, no LAD, no JVD  
CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNG: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: no cyanosis, clubbing or edema, moving all 4 
extremities with purpose  
PULSES: 2+ DP pulses bilaterally  
NEURO: CN II-XII intact  
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes 

Discharge :
VS: T: 97.2 HR: 72 BP: 115/76  RR: 18 97% RA  
Gen: NAD
HEENT: EOMI, PERRLA, MMM
CV: RRR nl s1s2 no m/r/g
Resp: CTAB no w/r/r
Abd: Soft, mild lower abdominal tenderness, ND +BS
Ext: no c/c/e
Neuro: CN II-XII intact, ___ strength throughout
Psych: normal affect
Skin: warm, dry no rashes
 
Pertinent Results:
___ 03:56AM BLOOD WBC-5.6 RBC-3.52* Hgb-11.8 Hct-36.1 
MCV-103* MCH-33.5* MCHC-32.7 RDW-14.7 RDWSD-55.2* Plt ___
___ 08:29AM BLOOD Hct-32.1*
___ 12:26PM BLOOD Hct-30.3*
___ 03:56AM BLOOD Neuts-64.3 ___ Monos-8.1 Eos-1.1 
Baso-0.4 Im ___ AbsNeut-3.60 AbsLymp-1.43 AbsMono-0.45 
AbsEos-0.06 AbsBaso-0.02
___ 05:27AM BLOOD ___ PTT-33.4 ___
___ 03:56AM BLOOD Glucose-106* UreaN-14 Creat-0.6 Na-142 
K-4.0 Cl-104 HCO3-23 AnGap-19
___ 03:56AM BLOOD ALT-71* AST-57* AlkPhos-76 TotBili-0.7
___ 03:56AM BLOOD Albumin-4.8

CT abd/pelvis:
1. Active extravasation of contrast from the posterior wall of 
the ascending 
colon and hepatic flexure of the colon likely corresponds to the 
site of 
recent colonic polyp resection during colonoscopy.  There are 
tiny locules of 
air outside the lumen of the colon as seen on series 2, image 
49, 48 and 52 
concerning for microperforation.  No large pericolonic fluid 
collection or 
hematoma. 
2. Colon is distended with mildly fluid, likely hemorrhagic 
fluid. 
3. Diffuse hepatic steatosis. 
  

___ colonoscopy
Old blood was noted in the distal colon. At the hepatic flexure, 
adherent clot was noted over the previous EMR site. The area was 
thoroughly irrigated and a small actively bleeding vessel was 
underneat the polyp. 2cc epi were initially injected around the 
bleeding area. 3 hemoclips were then successfully deployed over 
the bleeding vessel; complete cessation of bleeding was noted. 
10cc epi was then additional injected at the bleeding site.  
 
Impression: •Old blood was noted in the distal colon. 
•At the hepatic flexure, adherent clot was noted over the 
previous EMR site. 
•The area was thoroughly irrigated and a small actively bleeding 
vessel was underneat the polyp. 
•2cc epi were initially injected around the bleeding area. 
•3 hemoclips were then successfully deployed over the bleeding 
vessel; complete cessation of bleeding was noted. 
•10cc epi was then additional injected at the bleeding site. 
 
Discharge labs:

___ 06:35AM BLOOD WBC-3.1* RBC-2.14* Hgb-7.3* Hct-22.3* 
MCV-104* MCH-34.1* MCHC-32.7 RDW-14.2 RDWSD-53.8* Plt ___
___ 06:35AM BLOOD Glucose-107* UreaN-5* Creat-0.5 Na-142 
K-3.5 Cl-104 HCO3-28 AnGap-14
___ 06:35AM BLOOD ALT-44* AST-44* AlkPhos-50 TotBili-0.3
 
Brief Hospital Course:
Ms ___ is a lovely ___ with h/o granular cell tumor 
of the colon, tobacco abuse, HTN, depression, who recently had a 
colonoscopic procedure to remove a sub-mucosal lesion, who now 
p/w lower GI bleed. 

#) GI bleed: related to procedure to removal colonic polyp on 
___, now w/ bleeding from operative site, now s/p clips x4 and 
epinephrine injection on ___. Colonoscopy showed significant 
amount of old blood in colon, given that H/H now stabilizing the 
blood that she is now passing is likely old blood. Her 
hemoglobin stabilized and she had no BM for nearly 24 hours 
prior to discharge. She wished to avoid transfusion and was 
given IV iron for 2 doses.
- F/u with PCP, recommend repeat CBC check
- Started ferrous sulfate BID and bowel regimen
- Counselled to return to ED if she rebleeds, would need repeat 
colonoscopy.

#) Transaminitis: may be related to ~3 drinks/night. CT showed 
diffuse hepatic steatosis. Thus likely has NASH vs alcoholic 
inflammation. Ongoing discussion RE cutting EtOH back as 
probably not a healthy level.  Slight improvement prior to 
discharge. 
-Repeat LFTs with PCP

#) HTN: held lisinopril initially, restarted on discharge.

#) Depression: continue bupropion 

FEN: clears, IVF, replete electrolytes  
PPX: 
-DVT: mechanical 
ACCESS: PIV  
CODE: Full  
EMERGENCY CONTACT HCP:  Husband ___ ___
DISPO: home

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 5 mg PO DAILY 
2. BuPROPion 300 mg PO DAILY 

 
Discharge Medications:
1. Lisinopril 5 mg PO DAILY 
2. BuPROPion (Sustained Release) 300 mg PO QAM 
3. FoLIC Acid 1 mg PO DAILY 
RX *folic acid 1 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0
4. Ferrous Sulfate 325 mg PO BID 
RX *ferrous sulfate 325 mg (65 mg iron) 1 tablet(s) by mouth 
twice a day Disp #*60 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
GI bleed after resent endoscopic mucosal resection
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
You were admitted with a gastrointestinal bleed. This was 
related to your recent procedure to remove a polyp. You had a 
repeat colonoscopy and they were able to stop the bleeding by 
placing clips.  Your blood counts fell but are stable and you 
had no further bleeding.  You were given IV iron and are being 
discharged on iron pills, this may make your stool dark.  If you 
have more bleeding please return to the emergency room as you 
may need another colonoscopy.  Please have your PCP repeat your 
blood counts at your scheduled visit.
 
Followup Instructions:
___